.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

Va0 a0 gnd pulse 0 1.8 0ns 100ps 100ps 5ns 10ns
Vb0 b0 gnd pulse 0 1.8 0ns 100ps 100ps 10ns 20ns
Va1 a1 gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
Vb1 b1 gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns
Va2 a2 gnd pulse 0 1.8 0ns 100ps 100ps 80ns 160ns
Vb2 b2 gnd pulse 0 1.8 0ns 100ps 100ps 160ns 320ns
Va3 a3 gnd pulse 0 1.8 0ns 100ps 100ps 320ns 640ns
Vb3 b3 gnd pulse 0 1.8 0ns 100ps 100ps 640ns 1280ns
Va4 a4 gnd pulse 0 1.8 0ns 100ps 100ps 1280ns 2560ns
Vb4 b4 gnd pulse 0 1.8 0ns 100ps 100ps 2560ns 5120ns

* SPICE3 file created from carry_pg.ext - technology: scmos

.option scale=90n

M1000 c5 a_59_81# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1001 a_386_79# out_9 a_377_79# w_371_73# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1002 p1_comp a1 gnd gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1003 a_488_219# out_6 a_488_186# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1004 vdd out_4 out_5 w_645_206# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1005 a_704_78# out_5 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1006 out_12 a_29_295# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1007 a_356_293# p3_comp a_347_293# w_341_287# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1008 a_218_291# p4_comp out_10 w_203_285# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1009 gnd b0 a_901_475# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1010 a_622_514# b2 vdd w_608_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1011 g0_comp a0 a_901_475# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1012 g3_comp a3 a_354_475# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1013 out_1 a_948_300# vdd w_942_294# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1014 a_261_514# b4 vdd w_247_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1015 gnd b3 a_354_475# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1016 a_29_295# p4_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1017 vdd out_7 a_386_79# w_371_73# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1018 vdd p1_comp a_863_288# w_848_282# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1019 vdd g1_comp a_683_292# w_668_286# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1020 p3_comp a3 gnd gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1021 vdd b1 g1_comp w_714_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1022 c1 g0_comp vdd w_1053_321# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1023 vdd g3_comp a_38_295# w_23_289# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1024 g1_comp a1 vdd w_714_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1025 vdd g0_comp a_957_300# w_942_294# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1026 p0_comp a0 gnd gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1027 p1_comp a1 a_800_514# w_786_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1028 gnd b1 p1_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1029 gnd out_3 a_704_78# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1030 gnd p2_comp out_6 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1031 c3 a_704_78# vdd w_698_72# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1032 out_7 a_488_219# vdd w_473_213# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1033 out_11 a_170_221# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1034 out_3 a_815_218# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1035 vdd b0 g0_comp w_895_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1036 out_13 g4_comp vdd w_0_209# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1037 g0_comp a0 vdd w_895_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1038 g3_comp a3 vdd w_348_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1039 a_347_293# p3_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1040 out_10 p4_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1041 a_536_289# p3_comp out_6 w_521_283# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1042 vdd out_11 a_68_81# w_53_75# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1043 out_2 p2_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1044 gnd b0 p0_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1045 vdd b3 g3_comp w_348_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1046 out_1 a_948_300# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1047 a_948_300# p1_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1048 p3_comp a3 a_434_514# w_420_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1049 g2_comp a2 a_542_475# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1050 a_170_188# c3 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1051 vdd out_12 out_13 w_0_209# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1052 vdd p3_comp a_218_291# w_203_285# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1053 p0_comp a0 a_981_514# w_967_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1054 gnd g1_comp a_674_292# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1055 out_4 a_674_292# vdd w_668_286# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1056 a_15_182# g4_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1057 a_800_514# b1 vdd w_786_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1058 gnd b2 a_542_475# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1059 g4_comp a4 a_181_475# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1060 vdd g2_comp a_356_293# w_341_287# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1061 a_170_221# out_10 a_170_188# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1062 gnd g3_comp a_29_295# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1063 c1 g0_comp gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1064 p4_comp a4 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=44u as=60p ps=32u
M1065 p2_comp a2 gnd gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1066 out_9 g3_comp vdd w_318_207# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1067 a_713_78# out_5 a_704_78# w_698_72# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1068 a_981_514# b0 vdd w_967_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1069 out_13 out_12 a_15_182# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1070 out_8 a_347_293# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1071 a_683_292# p2_comp a_674_292# w_668_286# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1072 c3 a_704_78# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1073 a_377_79# out_9 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1074 a_815_218# c1 vdd w_800_212# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1075 gnd out_11 a_59_81# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1076 a_170_221# c3 vdd w_155_215# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1077 gnd b3 p3_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1078 vdd out_8 out_9 w_318_207# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1079 a_333_180# g3_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1080 a_68_81# out_13 a_59_81# w_53_75# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1081 g2_comp a2 vdd w_536_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1082 vdd b2 g2_comp w_536_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1083 g4_comp a4 vdd w_175_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1084 vdd out_10 a_170_221# w_155_215# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1085 gnd p3_comp out_10 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1086 vdd out_2 a_815_218# w_800_212# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1087 p4_comp a4 a_261_514# w_247_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1088 p2_comp a2 a_622_514# w_608_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1089 gnd b4 a_181_475# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1090 a_815_185# c1 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1091 vdd out_3 a_713_78# w_698_72# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1092 gnd g2_comp a_347_293# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1093 vdd p2_comp a_536_289# w_521_283# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1094 gnd out_7 a_377_79# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1095 out_9 out_8 a_333_180# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1096 gnd p1_comp out_2 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1097 gnd g0_comp a_948_300# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1098 out_3 a_815_218# vdd w_800_212# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1099 c4 a_377_79# vdd w_371_73# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1100 c5 a_59_81# vdd w_53_75# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1101 c2 g1_comp vdd w_918_221# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1102 a_815_218# out_2 a_815_185# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1103 a_674_292# p2_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1104 a_863_288# p2_comp out_2 w_848_282# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1105 a_434_514# b3 vdd w_420_508# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.24n ps=92u
M1106 out_12 a_29_295# vdd w_23_289# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1107 a_660_179# g2_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1108 out_7 a_488_219# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1109 vdd out_1 c2 w_918_221# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1110 a_488_219# c2 vdd w_473_213# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1111 a_933_194# g1_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1112 a_59_81# out_13 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1113 out_5 out_4 a_660_179# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1114 out_6 p3_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1115 a_38_295# p4_comp a_29_295# w_23_289# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1116 a_957_300# p1_comp a_948_300# w_942_294# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1117 vdd b4 g4_comp w_175_508# CMOSP w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1118 gnd b2 p2_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1119 gnd b4 p4_comp gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=60p ps=32u
M1120 vdd out_6 a_488_219# w_473_213# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1121 out_8 a_347_293# vdd w_341_287# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1122 a_488_186# c2 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1123 c2 out_1 a_933_194# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1124 out_4 a_674_292# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1125 gnd b1 a_720_475# gnd CMOSN w=20 l=2
+  ad=0.24n pd=64u as=100p ps=50u
M1126 g1_comp a1 a_720_475# gnd CMOSN w=20 l=2
+  ad=0.18n pd=58u as=0.16n ps=56u
M1127 c4 a_377_79# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1128 out_5 g2_comp vdd w_645_206# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1129 out_11 a_170_221# vdd w_155_215# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
C0 g0_comp a_901_475# 0.00709f
C1 a_347_293# p3_comp 0.00986f
C2 g0_comp w_1053_321# 0.03621f
C3 a_542_475# gnd 0.30929f
C4 a2 a_542_475# 0.00226f
C5 out_3 a_704_78# 0.00808f
C6 out_9 w_371_73# 0.02898f
C7 out_10 p4_comp 0.00998f
C8 g0_comp a0 0.00124f
C9 w_247_508# p4_comp 0.00896f
C10 w_895_508# vdd 0.02175f
C11 g0_comp w_942_294# 0.02877f
C12 a2 w_536_508# 0.02467f
C13 a_488_186# a_488_219# 0
C14 c2 a_815_218# 0.0098f
C15 vdd b4 0.01311f
C16 b1 g1_comp 0
C17 out_2 c1 0.04782f
C18 a_800_514# vdd 0.03184f
C19 g1_comp gnd 0.01397f
C20 w_668_286# g1_comp 0.02866f
C21 c2 out_3 0.00595f
C22 a_29_295# w_23_289# 0.03379f
C23 c2 w_918_221# 0.00926f
C24 a_170_221# vdd 0.02013f
C25 w_521_283# p3_comp 0.02866f
C26 c3 gnd 0.00164f
C27 w_668_286# g2_comp 0.00166f
C28 g2_comp gnd 0.01094f
C29 p1_comp vdd 0.29636f
C30 a2 g2_comp 0.00124f
C31 w_942_294# out_1 0.00792f
C32 c2 a_933_194# 0
C33 out_5 gnd 0.00405f
C34 out_13 gnd 0.00405f
C35 out_11 w_155_215# 0.00792f
C36 p0_comp b0 0.01103f
C37 w_895_508# a0 0.02467f
C38 out_7 vdd 0.34396f
C39 out_9 gnd 0.00405f
C40 p2_comp g1_comp 0.03779f
C41 a_377_79# out_7 0.00808f
C42 c1 vdd 0.02164f
C43 p4_comp gnd 0.02157f
C44 p2_comp g2_comp 0.03364f
C45 a_948_300# gnd 0.15676f
C46 w_23_289# vdd 0.01655f
C47 g3_comp w_23_289# 0.02866f
C48 w_175_508# b4 0.02467f
C49 w_247_508# a_261_514# 0.01716f
C50 w_536_508# vdd 0.02364f
C51 out_10 w_155_215# 0.02666f
C52 w_203_285# vdd 0.01053f
C53 p1_comp w_942_294# 0.02866f
C54 vdd w_698_72# 0.01655f
C55 a_704_78# gnd 0.15676f
C56 out_9 w_318_207# 0.00809f
C57 w_1053_321# c1 0.00792f
C58 a_29_295# p4_comp 0.00986f
C59 g1_comp vdd 0.12439f
C60 out_3 a_815_218# 0.0443f
C61 out_4 w_668_286# 0.00792f
C62 c3 vdd 0.01119f
C63 g2_comp vdd 0.122f
C64 p3_comp gnd 0.01808f
C65 w_645_206# vdd 0
C66 w_895_508# g0_comp 0.01317f
C67 g4_comp w_23_289# 0
C68 c2 w_473_213# 0.02978f
C69 a_488_219# w_473_213# 0.03323f
C70 a_170_188# gnd 0
C71 out_5 vdd 0.01831f
C72 a_488_219# gnd 0.04237f
C73 out_13 vdd 0.01831f
C74 c2 gnd 0.00164f
C75 a_815_185# a_815_218# 0
C76 out_9 vdd 0.01831f
C77 b2 p2_comp 0.01103f
C78 p1_comp g0_comp 0.12051f
C79 w_247_508# a4 0.02469f
C80 w_341_287# vdd 0.01655f
C81 out_9 g3_comp 0.00254f
C82 a_377_79# out_9 0.00986f
C83 w_341_287# g3_comp 0.0011f
C84 p4_comp vdd 0.03044f
C85 w_53_75# vdd 0.01655f
C86 out_2 w_848_282# 0.0084f
C87 a_948_300# vdd 0.00184f
C88 p2_comp w_848_282# 0.02866f
C89 g3_comp p4_comp 0.03647f
C90 w_786_508# a1 0.02469f
C91 w_942_294# g1_comp 0.0011f
C92 c2 out_2 0
C93 out_13 g4_comp 0.00254f
C94 c5 w_53_75# 0.00792f
C95 g0_comp c1 0.04327f
C96 a_704_78# vdd 0.00184f
C97 b2 vdd 0.01206f
C98 w_0_209# vdd 0
C99 w_714_508# g1_comp 0.01317f
C100 c1 w_800_212# 0.02978f
C101 a_674_292# g1_comp 0.00808f
C102 out_4 vdd 0.0055f
C103 out_6 p3_comp 0.00998f
C104 b0 vdd 0.0055f
C105 a_434_514# p3_comp 0.12376f
C106 p3_comp vdd 0.30126f
C107 a_29_295# out_12 0.0443f
C108 a_347_293# gnd 0.15676f
C109 w_848_282# vdd 0.01053f
C110 a_488_186# gnd 0
C111 g3_comp p3_comp 0.02606f
C112 out_6 a_488_219# 0.00868f
C113 c2 out_6 0.04782f
C114 c1 out_1 0.00657f
C115 a_815_218# gnd 0.04237f
C116 c2 vdd 0.04157f
C117 out_11 gnd 0.0048f
C118 a_488_219# vdd 0.02013f
C119 b3 vdd 0.01206f
C120 w_942_294# a_948_300# 0.03379f
C121 out_13 a_59_81# 0.00986f
C122 out_9 out_8 0.01046f
C123 p1_comp a_800_514# 0.12376f
C124 w_608_508# b2 0.02491f
C125 out_3 gnd 0.0048f
C126 w_341_287# out_8 0.00792f
C127 g4_comp w_0_209# 0.02666f
C128 a_901_475# b0 0.00121f
C129 a_261_514# vdd 0.04698f
C130 a_59_81# w_53_75# 0.03379f
C131 w_155_215# vdd 0.0263f
C132 out_12 vdd 0.0055f
C133 out_2 a_815_218# 0.00868f
C134 a_815_185# gnd 0
C135 out_1 g1_comp 0.03651f
C136 out_10 gnd 0.11504f
C137 b3 w_348_508# 0.02467f
C138 a_720_475# g1_comp 0.00818f
C139 p0_comp gnd 0
C140 a3 vdd 0.03805f
C141 g0_comp a_948_300# 0.00808f
C142 p3_comp w_420_508# 0.00894f
C143 a3 g3_comp 0.00245f
C144 b0 w_967_508# 0.02491f
C145 a1 vdd 0.01206f
C146 a_674_292# out_4 0.0443f
C147 a_347_293# vdd 0.00184f
C148 w_521_283# p2_comp 0.02869f
C149 a_981_514# p0_comp 0.12376f
C150 b1 w_786_508# 0.02491f
C151 b3 w_420_508# 0.02491f
C152 a_815_218# vdd 0.02013f
C153 out_11 vdd 0.34396f
C154 a4 vdd 0.01311f
C155 w_371_73# c4 0.00792f
C156 p1_comp g1_comp 0.09045f
C157 c3 a_170_221# 0.0028f
C158 a_948_300# out_1 0.0443f
C159 out_3 vdd 0.34396f
C160 w_918_221# vdd 0
C161 a3 w_348_508# 0.02467f
C162 a_181_475# b4 0.00121f
C163 w_521_283# out_6 0.0084f
C164 w_521_283# vdd 0.01053f
C165 p4_comp b4 0.01103f
C166 c1 g1_comp 0.00921f
C167 c2 w_800_212# 0.02319f
C168 g4_comp a4 0.00265f
C169 out_10 vdd 0.0055f
C170 w_247_508# vdd 0.05728f
C171 a3 w_420_508# 0.02469f
C172 a_542_475# g2_comp 0.00551f
C173 w_371_73# vdd 0.01655f
C174 p1_comp a_948_300# 0.00986f
C175 c2 out_1 0.00858f
C176 a_377_79# w_371_73# 0.03379f
C177 w_895_508# b0 0.02467f
C178 a_29_295# gnd 0.15676f
C179 w_714_508# a1 0.02467f
C180 a_347_293# out_8 0.0443f
C181 g2_comp w_536_508# 0.01317f
C182 out_2 gnd 0.11504f
C183 p2_comp w_668_286# 0.02866f
C184 p2_comp gnd 0.01959f
C185 w_175_508# a4 0.02467f
C186 c3 w_698_72# 0.00849f
C187 a2 p2_comp 0.01079f
C188 w_786_508# vdd 0.04151f
C189 out_11 a_59_81# 0.00808f
C190 out_5 w_698_72# 0.02898f
C191 w_645_206# g2_comp 0.02666f
C192 w_23_289# p4_comp 0.02869f
C193 p1_comp w_848_282# 0.02869f
C194 out_6 w_473_213# 0.02666f
C195 p0_comp a0 0.01083f
C196 w_473_213# vdd 0.0263f
C197 a_170_221# a_170_188# 0
C198 b1 vdd 0.011f
C199 g2_comp out_5 0.00254f
C200 w_645_206# out_5 0.00809f
C201 p4_comp w_203_285# 0.02866f
C202 out_6 gnd 0.11504f
C203 out_2 p2_comp 0.00998f
C204 w_668_286# vdd 0.01655f
C205 a2 vdd 0.01214f
C206 a_815_218# w_800_212# 0.03323f
C207 a_622_514# p2_comp 0.12376f
C208 g3_comp gnd 0.01577f
C209 a_377_79# gnd 0.15676f
C210 b2 a_542_475# 0.00121f
C211 w_341_287# g2_comp 0.02866f
C212 out_7 a_488_219# 0.0443f
C213 p0_comp w_967_508# 0.00896f
C214 out_3 w_800_212# 0.00792f
C215 a_720_475# a1 0.00226f
C216 a_170_221# w_155_215# 0.03323f
C217 b2 w_536_508# 0.02467f
C218 a_354_475# b3 0.00121f
C219 c2 c1 0
C220 a_704_78# w_698_72# 0.03379f
C221 a_29_295# vdd 0.00184f
C222 a_901_475# gnd 0.24743f
C223 a2 w_608_508# 0.02469f
C224 out_13 w_53_75# 0.02898f
C225 p3_comp w_203_285# 0.02869f
C226 out_2 vdd 0.0055f
C227 g4_comp gnd 0
C228 p2_comp vdd 0.30126f
C229 a_377_79# c4 0.04333f
C230 a_29_295# g3_comp 0.00808f
C231 w_918_221# out_1 0.02706f
C232 c3 a_704_78# 0.04325f
C233 w_318_207# vdd 0
C234 a_622_514# vdd 0.03941f
C235 g3_comp w_318_207# 0.02666f
C236 out_4 g2_comp 0.03651f
C237 out_4 w_645_206# 0.02706f
C238 out_5 a_704_78# 0.00986f
C239 p3_comp g2_comp 0.04978f
C240 p1_comp a1 0.01084f
C241 out_13 w_0_209# 0.00809f
C242 c2 g1_comp 0.00328f
C243 out_4 out_5 0.01046f
C244 w_23_289# out_12 0.00792f
C245 w_608_508# p2_comp 0.00925f
C246 a_170_221# out_11 0.0443f
C247 b1 w_714_508# 0.02467f
C248 c2 g2_comp 0
C249 c2 w_645_206# 0.01059f
C250 out_6 vdd 0.0055f
C251 a_434_514# vdd 0.03941f
C252 a3 a_354_475# 0.00226f
C253 w_608_508# a_622_514# 0.01716f
C254 a_660_179# out_5 0
C255 a_674_292# w_668_286# 0.03379f
C256 a_59_81# gnd 0.15676f
C257 a_674_292# gnd 0.15676f
C258 c2 out_5 0.00524f
C259 out_13 a_15_182# 0
C260 g3_comp vdd 0.12263f
C261 a_377_79# vdd 0.00184f
C262 w_341_287# p3_comp 0.02869f
C263 a_981_514# w_967_508# 0.01716f
C264 w_247_508# b4 0.02491f
C265 c3 w_155_215# 0.02978f
C266 a_815_218# c1 0.0028f
C267 g0_comp gnd 0.05367f
C268 w_608_508# vdd 0.0494f
C269 a_170_221# out_10 0.00868f
C270 w_1053_321# vdd 0.00602f
C271 g4_comp vdd 0.03658f
C272 w_918_221# c1 0.01941f
C273 out_13 out_12 0.01046f
C274 out_8 w_318_207# 0.02706f
C275 a_674_292# p2_comp 0.00986f
C276 w_348_508# vdd 0.02877f
C277 a0 vdd 0.0055f
C278 a1 g1_comp 0.00121f
C279 g3_comp w_348_508# 0.01456f
C280 w_942_294# vdd 0.01655f
C281 a_261_514# p4_comp 0.12376f
C282 b1 a_720_475# 0.00121f
C283 a_347_293# g2_comp 0.00808f
C284 a_720_475# gnd 0.24743f
C285 w_786_508# a_800_514# 0.01716f
C286 out_3 w_698_72# 0.02866f
C287 w_175_508# vdd 0.01383f
C288 c2 out_4 0
C289 out_7 w_371_73# 0.02866f
C290 a_434_514# w_420_508# 0.01716f
C291 w_420_508# vdd 0.0494f
C292 b3 p3_comp 0.01103f
C293 out_8 vdd 0.0055f
C294 w_786_508# p1_comp 0.00896f
C295 out_2 w_800_212# 0.02666f
C296 w_967_508# vdd 0.0084f
C297 w_714_508# vdd 0.02366f
C298 a_901_475# a0 0.00226f
C299 w_918_221# g1_comp 0.02666f
C300 a_674_292# vdd 0.00184f
C301 a_59_81# vdd 0.00184f
C302 out_8 g3_comp 0.0426f
C303 c2 a_488_219# 0.0028f
C304 out_10 w_203_285# 0.0084f
C305 a_347_293# w_341_287# 0.03379f
C306 b1 p1_comp 0.01103f
C307 w_0_209# out_12 0.02706f
C308 out_9 a_333_180# 0
C309 c5 a_59_81# 0.04333f
C310 a_170_221# gnd 0.04237f
C311 g0_comp vdd 0.26735f
C312 p1_comp gnd 0.01524f
C313 a_181_475# a4 0.00226f
C314 w_175_508# g4_comp 0.0145f
C315 c3 out_10 0.04782f
C316 out_11 w_53_75# 0.02866f
C317 a4 p4_comp 0.01084f
C318 out_7 w_473_213# 0.00792f
C319 w_800_212# vdd 0.0263f
C320 a0 w_967_508# 0.02469f
C321 out_7 gnd 0.0048f
C322 a3 p3_comp 0.01085f
C323 a_354_475# gnd 0.2003f
C324 c1 gnd 0.00164f
C325 out_1 vdd 0.0055f
C326 gnd 0 6.0774f 
C327 vdd 0 5.18873f 
C328 a_704_78# 0 0.41891f 
C329 c4 0 0.05528f 
C330 a_377_79# 0 0.41891f 
C331 c5 0 0.05528f 
C332 a_59_81# 0 0.41891f 
C333 out_3 0 1.05137f 
C334 out_5 0 0.61462f 
C335 a_815_218# 0 0.31192f 
C336 out_7 0 1.05137f 
C337 out_9 0 0.61462f 
C338 a_488_219# 0 0.31192f 
C339 out_11 0 1.05137f 
C340 out_13 0 0.61462f 
C341 c2 0 5.67916f 
C342 a_170_221# 0 0.31192f 
C343 c3 0 11.0874f 
C344 out_1 0 0.54466f 
C345 c1 0 3.965f 
C346 a_948_300# 0 0.41891f 
C347 out_2 0 0.46934f 
C348 out_4 0 0.56427f 
C349 a_674_292# 0 0.41891f 
C350 out_6 0 0.46934f 
C351 out_8 0 0.56423f 
C352 a_347_293# 0 0.41891f 
C353 out_10 0 0.46934f 
C354 out_12 0 0.57206f 
C355 a_29_295# 0 0.41891f 
C356 a_901_475# 0 0.12669f 
C357 a_720_475# 0 0.12669f 
C358 a_542_475# 0 0.12657f 
C359 a_354_475# 0 0.12683f 
C360 a_181_475# 0 0.15614f 
C361 p0_comp 0 0.24611f 
C362 a_981_514# 0 0.02892f 
C363 g0_comp 0 3.37732f 
C364 p1_comp 0 3.39031f 
C365 a_800_514# 0 0.02892f 
C366 g1_comp 0 8.05159f 
C367 p2_comp 0 3.87977f 
C368 a_622_514# 0 0.02892f 
C369 g2_comp 0 7.82894f 
C370 p3_comp 0 3.86114f 
C371 a_434_514# 0 0.02892f 
C372 g3_comp 0 7.31713f 
C373 p4_comp 0 5.10716f 
C374 a_261_514# 0 0.02892f 
C375 g4_comp 0 4.64769f 
C376 a0 0 0.95569f 
C377 b0 0 0.71868f 
C378 a1 0 0.95569f 
C379 b1 0 0.71868f 
C380 a2 0 0.95569f 
C381 b2 0 0.71868f 
C382 a3 0 0.9518f 
C383 b3 0 0.71868f 
C384 a4 0 0.95569f 
C385 b4 0 0.71868f 
C386 w_698_72# 0 4.17228f 
C387 w_371_73# 0 4.17228f 
C388 w_53_75# 0 4.17228f 
C389 w_918_221# 0 1.42524f 
C390 w_645_206# 0 1.42524f 
C391 w_800_212# 0 2.35733f 
C392 w_318_207# 0 1.42524f 
C393 w_473_213# 0 2.35733f 
C394 w_0_209# 0 1.42524f 
C395 w_155_215# 0 2.35733f 
C396 w_1053_321# 0 1.15707f 
C397 w_942_294# 0 4.17228f 
C398 w_848_282# 0 3.09154f 
C399 w_668_286# 0 4.17228f 
C400 w_521_283# 0 3.09154f 
C401 w_341_287# 0 4.17228f 
C402 w_203_285# 0 3.09154f 
C403 w_23_289# 0 4.17228f 
C404 w_967_508# 0 3.29041f 
C405 w_895_508# 0 1.7356f 
C406 w_786_508# 0 3.29041f 
C407 w_714_508# 0 1.7356f 
C408 w_608_508# 0 3.29041f 
C409 w_536_508# 0 1.7356f 
C410 w_420_508# 0 3.29041f 
C411 w_348_508# 0 1.7356f 
C412 w_247_508# 0 3.29041f 
C413 w_175_508# 0 1.7356f 

.tran 100p 5121ns
.control
run
set color0 = white
set color1=black
set linewidth=10
plot v(c3) v(a0)+2 v(b0)+4 v(a1)+6 v(b1)+8 v(a2)+10 v(b2)+12 v(a3)+14 v(b3)+16 v(a4)+18 v(b4)+20
.endc